US06613770B1
3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic Acid Dihydrochloride
3.5 g (7.9 mmol) of 3-[1,4′]bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester (compound of Description 5) and 50 ml of 6N HCl are refluxed for 1.5 h and then concentrated to dryness. The residue was triturated in acetone. This process was re-applied twice to the solid thus obtained affording, after drying in vacuo, 4.5 g of the title compound as a crude dihydrochloride used without further purification in the next step.

reactant | 3-[1,4′]bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester | 7.9 mmol, 3.5 g | COC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCC(CC1)N1CCCCC1 | C28H33N3O2
reactant | HCl | 6N, 50 ml | Cl | ClH
product | 3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic Acid Dihydrochloride | Cl.Cl.N1(CCCCC1)C1CCN(CC1)CC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | InChI=1S/C27H31N3O2.2ClH/c31-27(32)25-22-11-5-6-12-24(22)28-26(20-9-3-1-4-10-20)23(25)19-29-17-13-21(14-18-29)30-15-7-2-8-16-30;;/h1,3-6,9-12,21H,2,7-8,13-19H2,(H,31,32);2*1H
